US07462728B2
N-methyl-4-methylbenzenesulfonamide (5.55 g, 0.05 mol) was dissolved in 2-propanol (75 ml). Tetraethyl ammonium chloride (0.1 g) and 50% sodium hydroxide (2.40 gm) were added to the solution. Allyl bromide (2.30 g, 0.03 mol) was added to the reaction mixture and the solution stirred for 1 hr. The solution was filtered to remove sodium bromide and the 2-propanol evaporated in vacuo. The crude product was diluted with ethyl acetate and washed with water (2×), dried over anhydrous magnesium sulfate and evaporated in vacuo to give N-methyl-N* allyl-4-methylbenzenesulfonamide. MS m/z 225. (M+ calcd for C11H15NO2S=225). H NMR (300 Mhz, CDCl3) d 2.44 (s, 3, CH3), 2.67 (s, 3, NCH3), 3.63 (m, 2, CH2 epoxypropyl), 5.21 (m, 2, CH2 epoxypropyl), 5.66-5.77 (m, 1, CH epoxypropyl), 7.33 (m, 2, aromatic), 7.67 (m, 2, aromatic).

reactant | N-methyl-4-methylbenzenesulfonamide | 0.05 mol, 5.55 g | CNS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO2S
reactant | sodium hydroxide | 2.40 gm | [OH-].[Na+]
reactant | Allyl bromide | 0.03 mol, 2.30 g | C(C=C)Br | C3H5Br
solvent | 2-propanol | 75 ml | CC(C)O | C3H8O
catalyst | Tetraethyl ammonium chloride | 0.1 g | [Cl-].C(C)[N+](CC)(CC)CC
product | allyl-4-methylbenzenesulfonamide | C(C=C)C1=C(C=CC(=C1)C)S(=O)(=O)N | C10H13NO2S
